US06114388
Retinoic acid:
40 mg of hapten are solubilized in 2 ml of anhydrous methanol and 2 ml of anhydrous DMF containing 1 μl of radioactive tracer (cholesterol: ref. NET 725, Dupont de Nemours). 80 mg of PL dissolved in 2 ml of 1.5 M acetate buffer are then added dropwise. After thorough stirring, the conjugates are purified by dialysis. The first dialysis solution consists of a mixture of 1/3 of methanol, 1/3 of DMF and 1/3 of water. The following two solutions consist solely of water.

reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | cholesterol | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
reactant | acetate | 1.5 M, 2 ml | C(C)(=O)[O-]
solvent | methanol | 2 ml | CO | CH4O
product | Retinoic acid | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C/C(=O)O)/C)/C | C20H28O2
